US07750027B2
[3-(2-Benzenesulfonyl-pyridin-3-ylmethyl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid ethyl ester
A solution of (5-fluoro-2-methyl-indol-1-yl)-acetic acid ethyl ester (0.95 g, 4.04 mmol), prepared as described in Example 1 of WO/2006/092579, and 2-(benzenesulfonyl)isonicotinaldehyde (1.0 g, 4.04 mmol) in dry dichloromethane (45 ml) was added slowly over 5 minutes to a stirred solution of TMSOTf (1.46 ml, 8.08 mmol) in dry dichloromethane (12.5 ml) cooled to 0° C. under N2. This mixture was stirred for 15 minutes and triethylsilane (1.94 ml, 12.12 mmol) was added in one portion. The reaction mixture was stirred for 2 h 30 minutes, warmed to room temperature, and quenched by the slow addition of saturated aqueous NaHCO3 (10 ml). The resulting biphasic mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered and evaporated. The resulting solid was purified by column chromatography eluting with ethyl acetate:hexanes 0:100 to 60:40 v/v to afford 1.21 g (64%) of the title compound (LCMS RT=6.63 min, MH+466.8).

reactant | (5-fluoro-2-methyl-indol-1-yl)-acetic acid ethyl ester | 4.04 mmol, 0.95 g | C(C)OC(CN1C(=CC2=CC(=CC=C12)F)C)=O | C13H14FNO2
reactant | 2-(benzenesulfonyl)isonicotinaldehyde | 4.04 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C(C=O)C=CN1 | C12H9NO3S
reactant | TMSOTf | 8.08 mmol, 1.46 ml | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | triethylsilane | 12.12 mmol, 1.94 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12.5 ml | ClCCl | CH2Cl2
product | [3-(2-Benzenesulfonyl-pyridin-3-ylmethyl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid ethyl ester | 1.21 g, 64% | C(C)OC(CN1C(=C(C2=CC(=CC=C12)F)CC=1C(=NC=CC1)S(=O)(=O)C1=CC=CC=C1)C)=O | C25H23FN2O4S
